US06605600B1
3-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-3-hydroxy-8-oxa-bicyclo[3.2.1]octane-6,7-dicarboxylic acid dimethyl ester
To a solution of 3-[2,6-dioxo-1,3-dipropyl-7-(tetrahydropyran-2-yl)-2,3,6,7-tetrahydro-1H-purin-8-yl]-3-hydroxy-8-oxa-bicyclo[3.2.1]octane-6,7-dicarboxylic acid dimethyl ester (0.060 mmol, 0.030 g) in 1:1 THF/MeOH (6 ml) was added 1N HCl (3 drops). The reaction was stirred at room temperature 3d and then concentrated to dryness. The residue was purified by PLC on a 1 mm layer, eluting with 20% THF/CH2Cl2, providing the title compound (0.0162 g, 56%). 13C NMR (100 MHz, CDCl3): 11.53 (q), 11.50 (q), 21.72 (t), 21.75 (t), 41.74 (t), 43.82 (t), 45.85 (t), 51.02 (d), 52.64 (q), 70.37 (s), 77.12 (d), 107.53 (s), 149.12 (s), 151.17 (s), 156.32 (s), 159.98 (s), 173.36 (s).

reactant | 3-[2,6-dioxo-1,3-dipropyl-7-(tetrahydropyran-2-yl)-2,3,6,7-tetrahydro-1H-purin-8-yl]-3-hydroxy-8-oxa-bicyclo[3.2.1]octane-6,7-dicarboxylic acid dimethyl ester | 0.060 mmol, 0.030 g | COC(=O)C1C2CC(CC(C1C(=O)OC)O2)(O)C2=NC=1N(C(N(C(C1N2C2OCCCC2)=O)CCC)=O)CCC | C27H38N4O9
catalyst | HCl | 1N, 3 drops | Cl | ClH
solvent | THF MeOH | 6 ml | C1CCOC1.CO
product | 3-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-3-hydroxy-8-oxa-bicyclo[3.2.1]octane-6,7-dicarboxylic acid dimethyl ester | 0.0162 g, 56% | COC(=O)C1C2CC(CC(C1C(=O)OC)O2)(O)C2=NC=1N(C(N(C(C1N2)=O)CCC)=O)CCC | C22H30N4O8
